US09328110B2
mCPBA (2.11 g, 8.57 mmol) was added to a solution of 1-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butan-2-one (1.96 g, 6.59 mmol) in chloroform (30 mL) at room temperature. The reaction mixture was stirred for 1 hour, then was cooled to 0° C. Concentrated ammonium hydroxide (10 mL) and p-toluenesulfonyl chloride (1.38 g, 7.25 mmol) were added. The mixture was stirred at 0° C. for 1 hour, then was filtered. The filtrate was diluted with dichloromethane (50 mL) and saturated aqueous sodium bicarbonate (50 mL). The layers were separated and the aqueous layer was extracted with dichloromethane (25 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated to yield a brown solid. The solid was purified by chromatography on a HORIZON High-Performance Flash Chromatography (HPFC) instrument (available from Biotage, Inc, Charlottesville, Va., USA) (silica gel, gradient elution with 0-35% of a solution comprised of 80% CHCl3, 18% MeOH, and 2% conc. NH4OH (CMA) in chloroform) to afford a tan solid that was recrystallized from chloroform/hexanes. The crystals were isolated by filtration and dried in a vacuum oven at 80° C. to afford 0.718 g of 1-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butan-2-one as pale pink needles, mp 187-188° C.

reactant | mCPBA | 8.57 mmol, 2.11 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 1-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butan-2-one | 6.59 mmol, 1.96 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(CC)=O | C17H19N3O2
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 7.25 mmol, 1.38 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]butan-2-one | 0.718 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(CC)=O)COCC | C17H20N4O2
